US05756522
Sixty percent oily sodium hydride (40 mg, 1 mmol) was added to a solution of 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-mercapto-1,2,4-triazole 0.31 g, 1 mmol) in N,N-dimethylformamide (10 ml) at room temperature in a nitrogen atmosphere. After stirring at room temperature for 15 minutes, the atmosphere in the reaction vessel (20 ml volume) was replaced with tetrafluoroethylene gas, and the mixture was heated at 80° C. for 1 hour. The mixture was poured into water and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained oily product was subjected to silica gel chromatography to give 0.21 g of 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-(1,1,2,2-tetrafluoroethyl)-1,2,4-triazole.

reactant | sodium hydride | 1 mmol, 40 mg | [H-].[Na+]
reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-mercapto-1,2,4-triazole | 1 mmol, 0.31 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(N=C1)S | C9H4Cl2F3N3S
reactant | tetrafluoroethylene | FC(=C(F)F)F | C2F4
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-(1,1,2,2-tetrafluoroethyl)-1,2,4-triazole | 0.21 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(N=C1)C(C(F)F)(F)F | C11H4Cl2F7N3
